US04366320
b. 4-(Pentafluorophenyl)-1-carbethoxysemicarbazide
Pentafluoroaniline (17 g, 0.106 mol) is dissolved in 300 ml of toluene with heating. The 2-carbethoxyhydrazinecarbonyl chloride, 19.4 g (0.122 M) is added to the hot solution. The mixture is refluxed until a white solid precipitates. The solid is filtered to give 24.8 g. The product is crystallized by dissolving in ethyl acetate/toluene (1/2 by vol) and evaporating until crystals appear, mp 180°-182°.

reactant | Pentafluoroaniline | 0.106 mol, 17 g | FC1=C(C(=C(C(=C1N)F)F)F)F | C6H2F5N
reactant | 2-carbethoxyhydrazinecarbonyl chloride | C(=O)(OCC)NNC(=O)Cl | C4H7ClN2O3
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(Pentafluorophenyl)-1-carbethoxysemicarbazide | FC1=C(C(=C(C(=C1NC(NNC(=O)OCC)=O)F)F)F)F | C10H8F5N3O3
